US04656169
5-keto-isocaproic acid
1.00 g. (7.57 mmol) of 5-hydroxy isocaproic acid was oxidized with 0.82 g. (5.22 mmol) of potassium permanganate in an aqueous base according to the procedure of Carson, et al., Org. Syn. Col. Vol. 1, 241 (1941). The oily product contaminated with a minor amount of starting material was characterized by NMR and used without further purification.

reactant | 5-hydroxy isocaproic acid | 7.57 mmol | OCC(CCC(=O)O)C | C6H12O3
reactant | potassium permanganate | 5.22 mmol | [Mn](=O)(=O)(=O)[O-].[K+]
product | 5-keto-isocaproic acid | O=CC(CCC(=O)O)C | C6H10O3
